US05741926
4-((Bromoacetyl)amino)benzyl Alcohol
A solution of 4-(((tert-butyldimethylsilyl)oxy)methyl)aniline (14.0 g, 59 mmol) in a mixture of anhydrous DMF (30 mL) and anhydrous dioxane (30 mL) in a 250 mL 3-necked round-bottomed flask equipped with a constant addition funnel (60 mL) was cooled to 0° C. using an ice-bath. Bromoacetyl bromide (11.91 g, 5.18 mL, 59 mmol) was added dropwise, keeping the internal temperature between 0° and 5° C. over a 1/2 h period. After the addition of the bromoacetyl bromide was completed, the solution was warmed to rt, stirred overnight, and then the solution was slowly poured into 500 mL of ice-water. The resulting precipitate was filtered, washed with water, and then dried in a vacuum dessicator overnight to afford 8.73 g (61%) Of the title compound as a pale yellow crystals, mp 128°-134° C. (decomp), became wet at 89°-93° C.: 1H NMR (DMSO-d6) δ10.35 (s, 1H), 7.52 (d, J=8.8, 2H), 7.26 (d, J=8.8, 2H), 4.43 (s, 2H), 4.04 (s, 2H); 13C NMR (DMSO-d6) δ164.58, 138.00, 137.15, 126.97, 118.94, 62.51, 30.43; MS (El, m/z) 243 (M+).

reactant | 4-(((tert-butyldimethylsilyl)oxy)methyl)aniline | 59 mmol, 14.0 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(N)C=C1 | C13H23NOSi
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | Bromoacetyl bromide | 59 mmol, 5.18 mL, 11.91 g | BrCC(=O)Br | C2H2Br2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4-((Bromoacetyl)amino)benzyl Alcohol | 8.73 g, 61% | BrCC(=O)NC1=CC=C(CO)C=C1 | C9H10BrNO2
